US05455262
The coupling procedure described above for the preparation of Cbz-Phe-Ala-NH2 was employed using 10.0 g of Cbz-Trp-OH (Sigma Chemical Company) and 4.84 mL of freshly distilled BnNH2 in dry THF to give 11.3 g (89% yield) of crystalline Cbz-Trp-NHBn. Characteristic analytical data are as follows: mp 104°-105° C.; 1H NMR (300 MHz, CDCl3) δ8.00-6.88 (m, 16H, Ar), 5.85 (br, 1H, H-α), 5.45 (br, 1H, H--N), 5.10 (s, 2H, CH2 --O), 4.57-4.45 (br, H--), 4.27 (t, 6H, CH2 --N), 3.38 (dd, J=4, 14 Hz, 1H, H-β), 3.16 (dd, J=8, 14 Hz, 1H, H-β); mass spectrum (EI), m/e 427 (M+), 336 (M+ -Bn), 277 (M+ -Cbz-NH), 130 (M30 -Cbz-NH--CH--CONH-Bn), 91 (Bn+); [α]D25 +7.0° (c=0.20, EtOAc).

reactant | Cbz-Phe-Ala-NH2 | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N)C(=O)OCC1=CC=CC=C1 | C20H23N3O4
reactant | Cbz-Trp-OH | 10.0 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H18N2O4
reactant | BnNH2 | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | C1CCOC1 | C4H8O
product | Cbz-Trp-NHBn | 11.3 g, 89% yield | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C26H25N3O3
